US07727988B2
5-(5-chloro-2-fluoro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E43)
A mixture of 5-iodo-1-{3-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-propyl}-1H-pyrimidine-2,4-dione (Prep 40, 150 mg, 0.3 mmol), 2-fluoro-5-chloropyridine-3-boronic acid (142 mg, 0.9 mmol), KF (157 mg, 2.7 mmol), and Pd(OAc)2 (20 mg) in degassed MeOH (4 ml) was placed in a microwave oven and warmed at 120° C. for 25 minutes. The mixture was filtered, MeOH was evaporated and the crude partitioned between brine and ethyl acetate. The organic phase was dried (Na2SO4) and evaporated; the crude was purified by flash chromatography with ethyl acetate-NH4OH (0.5%) to give the title compound (10 mg, 6% yield).

reactant | 5-iodo-1-{3-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-propyl}-1H-pyrimidine-2,4-dione | 0.3 mmol, 150 mg | IC=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C19H19F3IN3O2
reactant | 2-fluoro-5-chloropyridine-3-boronic acid | 0.9 mmol, 142 mg | FC1=NC=C(C=C1B(O)O)Cl | C5H4BClFNO2
reactant | KF | 2.7 mmol, 157 mg | [F-].[K+]
solvent | MeOH | 4 ml | CO | CH4O
catalyst | Pd(OAc)2 | 20 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(5-chloro-2-fluoro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | 10 mg, 6% yield | Cl.Cl.ClC=1C=C(C(=NC1)F)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C24H21ClF4N4O2.2ClH/c25-17-8-18(20(26)30-10-17)19-12-33(22(35)31-21(19)34)7-1-6-32-11-16-9-23(16,13-32)14-2-4-15(5-3-14)24(27,28)29;;/h2-5,8,10,12,16H,1,6-7,9,11,13H2,(H,31,34,35);2*1H/t16-,23+;;/m0../s1
